US07635698B2
Step 2. {2-[4-(tert-Butyl-dimethyl-silanyloxy)-1-(4-chloro-benzoyl)-pyrrolidin-3-ylamino]-ethyl}-carbamic acid tert-butyl ester
To a solution of {2-[1-(4-chloro-benzoyl)-4-hydroxy-pyrrolidin-3-ylamino]-ethyl}-carbamic acid tert-butyl ester (750 mg, 1.95 mmol) in DMF (0.25 mL) at 0° C., was added imidazole (663 mg, 9.15 mmol) and TBDMSCl (309 mg, 2.05 mmol). The reaction mixture was stirred for 2 days. EtOAc (5 mL) was added. The organic phase was washed with Sat. NH4Cl, dried over Na2SO4, and concentrated. The residue was purified by column chromatography (Ethyl acetate:MeOH: 10:1) to give the desired product (389 mg, 40% yield) as a colorless oil. MS: (ESI), M/Z, 498 (M+1). Retention time: 2.21 min (FA-polar).

reactant | {2-[1-(4-chloro-benzoyl)-4-hydroxy-pyrrolidin-3-ylamino]-ethyl}-carbamic acid tert-butyl ester | 1.95 mmol, 750 mg | C(C)(C)(C)OC(NCCNC1CN(CC1O)C(C1=CC=C(C=C1)Cl)=O)=O | C18H26ClN3O4
reactant | imidazole | 9.15 mmol, 663 mg | N1C=NC=C1 | C3H4N2
reactant | TBDMSCl | 2.05 mmol, 309 mg | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 0.25 mL | CN(C)C=O | C3H7NO
product | {2-[4-(tert-Butyl-dimethyl-silanyloxy)-1-(4-chloro-benzoyl)-pyrrolidin-3-ylamino]-ethyl}-carbamic acid tert-butyl ester | 389 mg, 40% yield | C(C)(C)(C)OC(NCCNC1CN(CC1O[Si](C)(C)C(C)(C)C)C(C1=CC=C(C=C1)Cl)=O)=O | C24H40ClN3O4Si
